US04654363
Step K: Preparation of 3-(2,4,7-Trichloronaphthalen-1-yl)propanal
A solution of n-butyl lithium in hexane (3.2 ml, 4.3 mmoles) was added dropwise (3 minutes) to a solution of diisopropylamine (0.45 g, 4.5 mmoles) in dry tetrahydrofuran (10 ml) with cooling (ice bath). After stirring under nitrogen for 15 minutes, ethylidene cyclohexylimine (0.55 g, 4.3 mmole) was added dropwise (5 minutes) at 0° C. The mixture was stirred for 15 minutes and then the ice bath was replaced by a dry-ice-acetone bath. A solution of 1-chloromethyl-2,4,7-trichloronaphthalene (1.0 g, 3.8 mmoles) in tetrahydrofuran (15 ml) was added (5 minutes) at -75° C. The reaction mixture was stirred at -70° C. for 30 minutes and at room temperature overnight (20 hours) and then concentrated to dryness in vacuo. The residual oil was taken up in ether (100 ml) and 5% aqueous oxalic acid (100 ml) and the mixture stirred at room temperature for 31/2 hours. The layers were separated and the aqueous phase extracted (2X) with ether. The ether extracts were combined, washed with cold water and brine, and dried over MgSO4. The solution was filtered and concentrated in vacuo to give a red-brown oil (1.1 g). This material was chromatographed using a 50 mm flash column containing 150 g of silica gel (230-400 mesh) eluting with 30% methylene chloride in hexane (v/v) to give 0.21 g of the title compound as a pale yellow solid.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 4.3 mmoles, 3.2 ml | CCCCCC | C6H14
reactant | diisopropylamine | 4.5 mmoles, 0.45 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-chloromethyl-2,4,7-trichloronaphthalene | 3.8 mmoles, 1.0 g | ClCC1=C(C=C(C2=CC=C(C=C12)Cl)Cl)Cl | C11H6Cl4
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-(2,4,7-Trichloronaphthalen-1-yl)propanal | 1.1 g | ClC1=C(C2=CC(=CC=C2C(=C1)Cl)Cl)CCC=O | C13H9Cl3O
